US05438147
Sodium ω-(2-dodecylsuccinimido)-acetoxybenzenesulfonate
78.5 g (400 mmol) of anhydrous sodium phenolsulfonate and 137.4 g (400 mmol) of ω-(2-dodecylsuccinimido)-acetyl chloride are reacted in 200 g of xylene at 140° C. for 25 hours and the mixture is worked up as described in Example 1. The product is recrystallized from 90% strength ethanol and then dried at 40° C. under a water pump vacuum.

reactant | sodium phenolsulfonate | 400 mmol, 78.5 g | C1=CC=C(C(=C1)O)S(=O)(=O)[O-].[Na+]
reactant | ω-(2-dodecylsuccinimido)-acetyl chloride | 400 mmol, 137.4 g | C(CCCCCCCCCCC)C1C(=O)N(C(C1)=O)CC(=O)Cl | C18H30ClNO3
solvent | xylene | 200 g | C=1(C(=CC=CC1)C)C | C8H10
product | Sodium ω-(2-dodecylsuccinimido)-acetoxybenzenesulfonate | C(CCCCCCCCCCC)C1C(=O)N(C(C1)=O)CC(=O)OC1=C(C=CC=C1)S(=O)(=O)[O-].[Na+] | InChI=1S/C24H35NO7S.Na/c1-2-3-4-5-6-7-8-9-10-11-14-19-17-22(26)25(24(19)28)18-23(27)32-20-15-12-13-16-21(20)33(29,30)31;/h12-13,15-16,19H,2-11,14,17-18H2,1H3,(H,29,30,31);/q;+1/p-1
